US07491720B2
(3) Synthesis of 6-((1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)amino)pyrazine-2-carboxylic acid
To a mixture of 52 mg of methyl 6-((1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)amino)pyrazine-2-carboxylate, 0.5 ml of tetrahydrofuran and 1 ml of methanol was added an aqueous sodium hydroxide solution (1.0 M, 0.5 ml), followed by stirring at room temperature for 15 hours. The obtained reaction solution was diluted with ethyl acetate, and then washed with aqueous ammonium chloride and brine. The organic layer was dried over anhydrous magnesium sulfate and filtered, and filtrate was concentrated to give the title compound.

reactant | methyl 6-((1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)amino)pyrazine-2-carboxylate | 52 mg | C[Si](CCOCN1N=C(C=C1)NC1=CN=CC(=N1)C(=O)OC)(C)C | C15H23N5O3Si
reactant | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
reactant | methanol | 1 ml | CO | CH4O
reactant | sodium hydroxide | 1.0 M, 0.5 ml | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-((1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)amino)pyrazine-2-carboxylic acid | C[Si](CCOCN1N=C(C=C1)NC1=CN=CC(=N1)C(=O)O)(C)C | C14H21N5O3Si
